US08975254B2
(S)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-bromo-1,3-thiazole-4-carboxylic acid (0.957 g, 4.60 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (1 g, 3.84 mmol). Yield 62.7%. 1H-NMR (400 MHz; CDCl3): δ 1.32 (d, 3H), 4.36 (dd, 1H), 4.46 (dd, 1H), 4.58-4.63 (m, 1H), 6.63 (d, 1H), 7.51 (d, 1H), 7.65 (d, 1H), 7.70 (d, 1H), 7.76 (dd, 1H), 7.93 (d, 1H), 7.40 (s, 1H).

reactant | 2-bromo-1,3-thiazole-4-carboxylic acid | 4.60 mmol, 0.957 g | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 3.84 mmol, 1 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | Yield 62.7% | BrC=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C17H13BrClN5OS
